US07534788B2
Step A: 4-(5-Chloro-2-ethoxycarbonyl-3-methyl-benzofuran-6-yloxy)-piperidine-1-carboxylic acid tert-butyl ester
The above prepared 5-chloro-6-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester (0.900 g, 3.53 mmol) was dissolved in 15 mL of THF and treated successively at −10° C. with 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (0.996 g, 1.4 eq.), triphenylphosphine (1.298 g, 1.4 eq.) and DIAD (0.971 mL, 1.4 eq.), and the mixture then kept at ambient temperature for another 3 h. Pouring onto crashed ice/NH4Cl, twofold extraction with AcOEt, washing with water and brine, drying over magnesium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=85/15), gave 1.459 g of the title compound as colorless gum.

reactant | 5-chloro-6-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 3.53 mmol, 0.900 g | C(C)OC(=O)C=1OC2=C(C1C)C=C(C(=C2)O)Cl | C12H11ClO4
reactant | 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 0.996 g, 1.4 eq. | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | triphenylphosphine | 1.298 g, 1.4 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 0.971 mL, 1.4 eq. | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-(5-Chloro-2-ethoxycarbonyl-3-methyl-benzofuran-6-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 1.459 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC2=C(C(=C(O2)C(=O)OCC)C)C=C1Cl | C22H28ClNO6
